US07759369B2
(d). 6-(Chloromethyl)-3-methyl-2-pyridinecarbonitrile
A solution of 6-(Hydroxymethyl)-3-methyl-2-pyridinecarbonitrile (148 mg) and thionyl chloride (0.16 ml) in dichloromethane (3.5 ml) was stirred at ambient temperature for 6 hours. Solvent was removed in vacuo and toluene (2 ml) added then removed in vacuo to afford the title compound (160 mg, 96%) as a pale grey-green solid.

reactant | 6-(Hydroxymethyl)-3-methyl-2-pyridinecarbonitrile | 148 mg | OCC1=CC=C(C(=N1)C#N)C | C8H8N2O
reactant | thionyl chloride | 0.16 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | 6-(Chloromethyl)-3-methyl-2-pyridinecarbonitrile | 160 mg, 96% | ClCC1=CC=C(C(=N1)C#N)C | C8H7ClN2
